US09403835B2
Step 1: 6-chloro-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester
A mixture of 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester (2 g; 8.92 mmol; 1 eq.) and 2-chloromalonaldehyde (1.04 g; 9.81 mmol; 1.1 eq.) in AcOH was stirred at room temperature for 18 hours then diluted with water (30 mL). The precipitate was filtered off and purified by column chromatography (DCM/EA, from 95/5 to 80/20) to afford the title compound (1.24 g, 47%) as a white solid. 1H NMR (DMSO-d6) δ 9.57 (d, J=2.3 Hz, 1H), 8.59 (d, J=2.3 Hz, 1H), 4.63-4.57 (m, 4H), 1.47 (s, 9H). HPLC (max plot) 99.1%; Rt 3.75 min.

reactant | 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester | 8.92 mmol, 2 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC2=NNC(=C2C1)N | C10H16N4O2
reactant | 2-chloromalonaldehyde | 9.81 mmol, 1.04 g, 1.1 eq. | ClC(C=O)C=O | C3H3ClO2
solvent | AcOH | CC(=O)O | C2H4O2
solvent | water | 30 mL | O | H2O
product | 6-chloro-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 1.24 g, 47% | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=CC(=CN3N2)Cl)C1 | C13H15ClN4O2
